US07217715B2
1.1 6-(Trifluoromethyl)-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride (1:2)
To a solution of 10 g (45.11 mmol) of 4-trifluoromethyl-pyrimidin-2-ylamine and 0.065 g of palladium 10 wt. % on activated carbon in 5 ml of isopropanol was added 45 ml of a solution of hydrochloric acid in isopropanol (5–6 N). The mixture was shaken at 40° C. under hydrogen pressure of 4 atmospheres until hydrogen uptake ceased. The catalyst was removed by filtration and washed with isopropanol. The filtrate was evaporated to dryness to afford 12.14 g of pure product as a white solid.

reactant | 4-trifluoromethyl-pyrimidin-2-ylamine | 45.11 mmol, 10 g | FC(C1=NC(=NC=C1)N)(F)F | C5H4F3N3
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5–6 N | C(C)(C)O | C3H8O
catalyst | palladium | 0.065 g | [Pd] | Pd
product | 6-(Trifluoromethyl)-1,4,5,6-tetrahydro-2-pyrimidinamine hydrochloride | 12.14 g | Cl.FC(C1CCN=C(N1)N)(F)F | InChI=1S/C5H8F3N3.ClH/c6-5(7,8)3-1-2-10-4(9)11-3;/h3H,1-2H2,(H3,9,10,11);1H
